US03951982
From 21.4 g. of 6-(p-fluorophenyl)-1,2-dihydro-2-oxonicotinonitrile and 22.8 g. of N-ethylpiperazine in 200 ml. of dimethyl sulfoxide, there is obtained 6-[p-(4-ethyl-1-piperazinyl)phenyl]-1,2-dihydro-2-oxonicotinonitrile; m.p. 283°-285° (dec.).

reactant | 6-(p-fluorophenyl)-1,2-dihydro-2-oxonicotinonitrile | FC1=CC=C(C=C1)C=1NC(C(C#N)=CC1)=O | C12H7FN2O
reactant | N-ethylpiperazine | C(C)N1CCNCC1 | C6H14N2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 6-[p-(4-ethyl-1-piperazinyl)phenyl]-1,2-dihydro-2-oxonicotinonitrile | C(C)N1CCN(CC1)C1=CC=C(C=C1)C=1NC(C(C#N)=CC1)=O | C18H20N4O
